US08975415B2
To a mixture of 1-(5-bromo-2-hydroxyphenyl)ethanone (10.0 g, 46.5 mmol) and MeOH (0.20 L) were added 3-methylbutanal (7.54 mL, 69.8 mmol) and pyrrolidine (5.77 mL, 69.8 mmol) at ambient temperature, and the mixture was stirred for 3 days at the same temperature. After concentration of the reaction mixture at reduced pressure, the residue was diluted with EtOAc, acidified to pH 3-4 with 1M aqueous HCl, and extracted with EtOAc. The organic layer was washed with water and brine, dried over MgSO4, and filtered. After concentration of the filtrate at reduced pressure, purification of the residue with column chromatography on silica gel (EtOAc-hexane, a linear gradient of EtOAc from 0 to 10%) afforded 6-bromo-2-isobutyl-2,3-dihydro-4H-chromen-4-one (9.02 g).

reactant | 1-(5-bromo-2-hydroxyphenyl)ethanone | 46.5 mmol, 10.0 g | BrC=1C=CC(=C(C1)C(C)=O)O | C8H7BrO2
reactant | 3-methylbutanal | 69.8 mmol, 7.54 mL | CC(CC=O)C | C5H10O
reactant | pyrrolidine | 69.8 mmol, 5.77 mL | N1CCCC1 | C4H9N
reactant | HCl | 1M | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 0.20 L | CO | CH4O
product | 6-bromo-2-isobutyl-2,3-dihydro-4H-chromen-4-one | 9.02 g | BrC=1C=C2C(CC(OC2=CC1)CC(C)C)=O | C13H15BrO2
